US07915267B2
A suspension of 1-{3-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]oxy]ethyl)oxy}phenyl}methanamine obtained in Reference Example 32 (300 mg, 1.18 mmol) and ethyl 5,6-difluoro-4-oxo-3,4-dihydroquinazoline-2-carboxylate obtained in Reference Example 57 (562 mg, 1.18 mmol) in ethanol (10 mL) was stirred at 80° C. for 12 hr. The insoluble material was filtered off hot, and the filtrate was allowed to cool to room temperature. The precipitated solid was collected by filtration using glass filter, and the obtained solid was washed with diethyl ether to give 5,6-difluoro-4-oxo-N-({3-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]oxy}ethyl)oxy]phenyl}methyl)-3,4-dihydroquinazoline-2-carboxamide as a pale-yellow powder (330 mg, 41%).

reactant | 1-{3-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]oxy]ethyl)oxy}phenyl}methanamine | C1(=CC=CC=C1)C(N1N=C(N=C1)OCCOC=1C=C(C=CC1)CN)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H28N4O2
reactant | ethyl 5,6-difluoro-4-oxo-3,4-dihydroquinazoline-2-carboxylate | FC1=C2C(NC(=NC2=CC=C1F)C(=O)OCC)=O | C11H8F2N2O3
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5,6-difluoro-4-oxo-N-({3-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]oxy}ethyl)oxy]phenyl}methyl)-3,4-dihydroquinazoline-2-carboxamide | 330 mg, 41% | FC1=C2C(NC(=NC2=CC=C1F)C(=O)NCC1=CC(=CC=C1)OCCOC1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C39H30F2N6O4
